US04428949
100 g (0.267 mole) of 3,3-bis fluoromethyl-1-bromo-1-(3-trifluoromethylphenoxy)-butan-2-one and 37.2 g (0.54 mole) of 1,2,4-triazole in 600 ml of acetonitrile were heated to 65° C. for 6 hours, while stirring. The solvent was then distilled off under a waterpump vacuum, the residue was taken up in 800 ml of methylene chloride and the mixture was washed twice with 1,000 ml of water each time. The organic phase was dried over sodium sulphate and concentrated. The oily residue was distilled under a high vacuum. 80 g (82.4% of theory) of 3,3-bisfluoromethyl-1-(1,2,4-triazol-1-yl)-1-(3-trifluoromethylphenoxy)-butan-2-one of boiling point 136°-41° C./0.1 mm Hg were obtained.

reactant | 3,3-bis fluoromethyl-1-bromo-1-(3-trifluoromethylphenoxy)-butan-2-one | 0.267 mole, 100 g | FCC(C(C(OC1=CC(=CC=C1)C(F)(F)F)Br)=O)(C)CF | C13H12BrF5O2
reactant | 1,2,4-triazole | 0.54 mole, 37.2 g | N1N=CN=C1 | C2H3N3
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 3,3-bisfluoromethyl-1-(1,2,4-triazol-1-yl)-1-(3-trifluoromethylphenoxy)-butan-2-one | 80 g, 82.4% | FCC(C(C(OC1=CC(=CC=C1)C(F)(F)F)N1N=CN=C1)=O)(C)CF | C15H14F5N3O2
